US05962682
Analogously to Example 74, by condensing 3-(4-tert-butyl-benzenesulphonylamino)-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzoic acid with morpholine there was obtained 4-tert-butyl-N-[3-(2-hydroxy-ethoxy)-2-(3-methoxy-phenoxy)-5-(morpholine-4-carbonyl)-phenyl]-benzenesulphonamide.

reactant | 3-(4-tert-butyl-benzenesulphonylamino)-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzoic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)O)C=C(C1OC1=CC(=CC=C1)OC)OCCO | C26H29NO8S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-tert-butyl-N-[3-(2-hydroxy-ethoxy)-2-(3-methoxy-phenoxy)-5-(morpholine-4-carbonyl)-phenyl]-benzenesulphonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=CC(=C1)C(=O)N1CCOCC1)OCCO)OC1=CC(=CC=C1)OC | C30H36N2O8S
